US09029536B2
B) 3-[4-(Methoxymethoxy)phenyl]-1H-pyrrolo[3,2-b]pyridine
To a suspension of Xphos (0.695 g), 3-bromo-1H-pyrrolo[3,2-b]pyridine (3.59 g), 2-[4-(methoxymethoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (4.81 g) and Cs2CO3 (11.86 g) in DME (50 mL) and water (10 mL) was added Pd2(dba)3 (0.334 g). The mixture was refluxed overnight under Ar atmosphere. The mixture was added to water and extracted with AcOEt. The organic layer was separated, washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by silica gel column Chromatography (AcOEt/hexane) to give the title compound (0.650 g).

reactant | Xphos | 0.695 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | 3-bromo-1H-pyrrolo[3,2-b]pyridine | 3.59 g | BrC1=CNC=2C1=NC=CC2 | C7H5BrN2
reactant | 2-[4-(methoxymethoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 4.81 g | COCOC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C14H21BO4
reactant | Cs2CO3 | 11.86 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DME | 50 mL | COCCOC | C4H10O2
solvent | water | 10 mL | O | H2O
catalyst | Pd2(dba)3 | 0.334 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-[4-(Methoxymethoxy)phenyl]-1H-pyrrolo[3,2-b]pyridine | 0.650 g | COCOC1=CC=C(C=C1)C1=CNC=2C1=NC=CC2 | C15H14N2O2
